US05232964
3. Trimethoxysilylpropylpyridinium Chloride
A mixture of 60.0 grams of methanol, 60.0 grams of chloropropyltrimethoxysilane and 15.26 grams of pyridine was prepared. The mixture was heated and allowed to reflux for 72 hours. The mixture was vacuum stripped at 80° C. and 29 inches of Hg, for one hour. Following hexane and isopropanol washes, a white salt formed. The salt was dissolved in 15 grams of isopropanol.

reactant | methanol | 60.0 grams | CO | CH4O
reactant | chloropropyltrimethoxysilane | 60.0 grams | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
reactant | pyridine | 15.26 grams | N1=CC=CC=C1 | C5H5N
reactant | hexane | CCCCCC | C6H14
solvent | isopropanol | 15 grams | C(C)(C)O | C3H8O
product | Trimethoxysilylpropylpyridinium Chloride | [Cl-].CO[Si](OC)(OC)CCC[N+]1=CC=CC=C1 | InChI=1S/C11H20NO3Si.ClH/c1-13-16(14-2,15-3)11-7-10-12-8-5-4-6-9-12;/h4-6,8-9H,7,10-11H2,1-3H3;1H/q+1;/p-1
